US06562807B2
Dry ethanol (40 mL) was cooled on an ice bath and thionyl chloride (4 mL) was added dropwise maintaining the temperature below 5° C. To this cold solution was added (RS)-isoserine (2.5 g, 23.79 mmol) and stirring was continued until a homogeneous solution was obtained. The ice bath was removed and stirring was continued for 17 hours at room temperature. The solution was concentrated in vacuo to afford 4.0 g (100%) of (RS)-isoserine ethyl ester hydrochloride as an oil.

reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (RS)-isoserine | 23.79 mmol, 2.5 g | NCC(O)C(=O)O | C3H7NO3
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | (RS)-isoserine ethyl ester hydrochloride | 4.0 g, 100% | Cl.C(C)OC(C(CN)O)=O | InChI=1S/C5H11NO3.ClH/c1-2-9-5(8)4(7)3-6;/h4,7H,2-3,6H2,1H3;1H
